US09085534B2
3-[(2,4-dichlorobenzyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 42% yield from 2,4-dichlorobenzylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.49 (br s, 1H), 8.04 (s, 1H), 7.87 (d, 1H, J=5.0 Hz), 7.66 (s, 1H), 7.59 (d, 1H, J=5.0 Hz), 7.38-7.42 (m, 2H), 4.63 (s, 2H). [M+H] calc'd for C13H10Cl2N2O2, 297, 299; found 297, 299.

reactant | 2,4-dichlorobenzylamine | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(2,4-dichlorobenzyl)amino]pyridine-4-carboxylic acid | 42% yield | ClC1=C(CNC=2C=NC=CC2C(=O)O)C=CC(=C1)Cl | C13H10Cl2N2O2
